US09034900B2
Step 3: 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(2-trimethylsilylethynyl)pyridin-2-one
A mixture of 5-bromo-1-methyl-3-(2-trimethylsilylethynyl)pyridin-2-one (9.0 g, 31.67 mmol), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (20.1 g, 79.16 mmol), Pd2(dba)3 (1.8 g, 3.17 mmol), X-Phos (1.5 g, 3.17 mmol) and KOAc (18.65 g, 189.99 mmol) in anhydrous dioxane (200 mL) was stirred at 70° C. under an atmosphere of argon for 12 h. After the mixture was concentrated in vacuo, the residue was purified by column chromatography on silica gel (PE:EA=4:1) to give the title compound (3.5 g, 33%) as an off-white solid. 1H NMR (CDCl3, 400 MHz): δ 7.88 (d, J=2.0 Hz, 1H), 7.75 (d, J=2.0 Hz, 1H), 3.56 (s, 3H), 1.31 (s, 12H), 0.25 (s, 9H). LCMS (M+H)+=332 and 250.

reactant | 5-bromo-1-methyl-3-(2-trimethylsilylethynyl)pyridin-2-one | 31.67 mmol, 9.0 g | BrC=1C=C(C(N(C1)C)=O)C#C[Si](C)(C)C | C11H14BrNOSi
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 79.16 mmol, 20.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | X-Phos | 3.17 mmol, 1.5 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | KOAc | 189.99 mmol, 18.65 g | CC(=O)[O-].[K+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 3.17 mmol, 1.8 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(2-trimethylsilylethynyl)pyridin-2-one | 3.5 g, 33% | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C#C[Si](C)(C)C)=O | C17H26BNO3Si
